US06911469B2
4-Bromo-2-methyl-1-(2-(trimethylsilyl)ethoxymethyl)imidazol-5-carboxaldehyde
4,5-Dibromo-2-methyl-1-(2-(trimethylsilyl)ethoxymethyl)imidazol (29.2 g) was dissolved in tetrahydrofurane (250 ml) and a 1.63N n-butyl lithium/hexane solution (58.1 ml) was dropwise added over 20 min at −55° C. to −60° C. The mixture was stirred at −60° C. for 30 min and N,N-dimethylformamide (58 g) was dropwise added at −55° C. to −60° C., and the mixture was stirred at room temperature for 1 hr. Saturated brine was added and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/1) to give the objective compound (18.5 g) as a pale-yellow oil.

reactant | 4,5-Dibromo-2-methyl-1-(2-(trimethylsilyl)ethoxymethyl)imidazol | 29.2 g | BrC=1N=C(N(C1Br)COCC[Si](C)(C)C)C | C10H18Br2N2OSi
reactant | n-butyl lithium hexane | 1.63N, 58.1 ml | C(CCC)[Li].CCCCCC
reactant | N,N-dimethylformamide | 58 g | CN(C=O)C | C3H7NO
solvent | tetrahydrofurane | 250 ml | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 4-Bromo-2-methyl-1-(2-(trimethylsilyl)ethoxymethyl)imidazol-5-carboxaldehyde | 18.5 g | BrC=1N=C(N(C1C=O)COCC[Si](C)(C)C)C | C11H19BrN2O2Si
